US04279908
6-(3,5-Dichloro-4-methylphenyl)-2-methoxycarbonyl-3-pyridazone (Compound No. 23)
A mixture of 2.55 g of 6-(3,5-dichloro-4-methylphenyl)-3-pyridazone, 4.7 g of methyl chloroformate and 25 ml of xylene was heated under reflux for 1.5 hours. The reaction mixture was then left to cool at room temperature and the precipitate thus produced was collected by filtration and washed with hexane, giving 2.94 g (94%) of the desired Compound No. 23 in the form of colourless prisms having, after recrystallization from benzene, a melting point of 203°-206° C.

reactant | 6-(3,5-dichloro-4-methylphenyl)-3-pyridazone | 2.55 g | ClC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=O | C11H8Cl2N2O
reactant | methyl chloroformate | 4.7 g | ClC(=O)OC | C2H3ClO2
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(3,5-Dichloro-4-methylphenyl)-2-methoxycarbonyl-3-pyridazone | 2.94 g, 94% | ClC=1C=C(C=C(C1C)Cl)C=1C=CC(N(N1)C(=O)OC)=O | C13H10Cl2N2O3
